US08026370B2
4-(chloromethyl)-1-phenyl-1H-pyrazole
(1-Phenyl-1H-pyrazol-4-yl)methanol (6.3 g) synthesized in Reference Example 17 was dissolved in dichloromethane (100 mL) and, after ice-cooling, thionyl chloride (5.59 g) was added thereto, and the mixture was stirred at 0° C. for 2 hr. Saturated aqueous sodium hydrogen carbonate solution was added to the reaction mixture, and the mixture was extracted with dichloromethane. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (elution solvent; hexane:ethyl acetate=4:1) to give the title compound (7.4 g) as a white solid.

reactant | (1-Phenyl-1H-pyrazol-4-yl)methanol | 6.3 g | C1(=CC=CC=C1)N1N=CC(=C1)CO | C10H10N2O
reactant | thionyl chloride | 5.59 g | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-(chloromethyl)-1-phenyl-1H-pyrazole | 7.4 g | ClCC=1C=NN(C1)C1=CC=CC=C1 | C10H9ClN2
